US04549988
8-Chloro-4,5-dihydro-1-phenyl-3H-2-benzazepine hydrochloride
A solution of 5.1 g (12.6 mmole) of 1-[4-chloro-2-benzoylphenyl]-3-phthalimidopropane in 100 ml of ethanol and 20 ml of 3N sodium hydroxide was refluxed for 2 hr. The solution was diluted with 60 ml of 3N hydrochloric acid and refluxed for 12 hr. The mixture was diluted with water and extracted with ether. The aqueous layer was separated, made alkaline with dilute sodium hydroxide, and extracted with methylene chloride. The methylene chloride extract was dried over anhydrous sodium sulfate and concentrated at reduced pressure to dryness. The residue was purified by plug filtration (silica gel, 10 g; eluent, methylene chloride) and the eluent was acidified with methanolic hydrogen chloride. The solution was concentrated at reduced pressure to dryness and the residue was crystallized from a mixture of isopropanol and ether to give a colorless solid, mp 234°-235° C. Recrystallization from a mixture of methylene chloride and ether gave colorless needles, mp 234°-235° C. dec.

reactant | 1-[4-chloro-2-benzoylphenyl]-3-phthalimidopropane | 12.6 mmole, 5.1 g | ClC1=CC(=C(C=C1)CCCN1C(C=2C(C1=O)=CC=CC2)=O)C(C2=CC=CC=C2)=O | C24H18ClNO3
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 3N, 20 ml | [OH-].[Na+]
solvent | hydrochloric acid | 3N, 60 ml | Cl | ClH
solvent | water | O | H2O
product | 8-Chloro-4,5-dihydro-1-phenyl-3H-2-benzazepine hydrochloride | Cl.ClC1=CC2=C(CCCN=C2C2=CC=CC=C2)C=C1 | InChI=1S/C16H14ClN.ClH/c17-14-9-8-12-7-4-10-18-16(15(12)11-14)13-5-2-1-3-6-13;/h1-3,5-6,8-9,11H,4,7,10H2;1H
